US06603005B2
A mixture of 0.4 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-yl)thioethyl]-piperidine-4-carboxylate in 5 cm3 of aqueous 5N hydrochloric acid and 3 cm3 of dioxane was maintained at a temperature in t h e region of 100° C. with stirring and under an inert atmosphere for 20 hours. After cooling to about 20° C., the reaction mixture was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The mixture was filtered and then chromatographed, under atmospheric pressure, on a column of silica gel (particle size 40-63μ; diameter 1.5 cm; mass 55 g), eluting with a mixture of chloroform/methanol/aqueous ammonia (12/3/0.5 by volume) and collecting 15-cm3 fractions. Fractions 5 to 12 were combined and then concentrated to dryness under the above conditions. 0.26 g of 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-yl)thioethyl]piperidine-4-carboxylic acid was obtained in the form of a white crystalline solid melting at 180° C.

reactant | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-yl)thioethyl]-piperidine-4-carboxylate | 0.4 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC=1SC=CC1)C(=O)OCC)OC | C27H33FN2O3S2
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | dioxane | 3 cm3 | O1CCOCC1 | C4H8O2
product | 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-yl)thioethyl]piperidine-4-carboxylic acid | 0.26 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC=1SC=CC1)C(=O)O)OC | C25H29FN2O3S2
